US06197975B1
Step 2.2F N-{[3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ylcarbamoyl]methyl}-acetamide
To a solution of acetylaminoacetic acid (32.2 mg in 6 mL dry methylene chloride) was added 48 mg 1-hydroxybenzotriazole followed by 50 mg 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and the mixture stirred at room temperature. After 50 minutes, a solution of 3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ylamine (120 mg in 2 mL methylene chloride) was added and stirring continued. After 4 hours (total), the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5) to give the title compound (131 mg).

reactant | acetylaminoacetic acid | 6 mL, 32.2 mg | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | 1-hydroxybenzotriazole | 48 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 50 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ylamine | 2 mL, 120 mg | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)N)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C35H38N4O2
product | N-{[3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ylcarbamoyl]methyl}-acetamide | 131 mg | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)NC(=O)CNC(C)=O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C39H43N5O4
